US07456164B2
methyl-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]-tetrahydropyran-4-ylmethyl}amine
To a stirred solution of LiAlH4 (2.59 g, 68.18 mmol) in dry THF at 0° C. was added dropwise a solution of methyl-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-pyran-4-ylmethyl}carbamic acid tert-butyl ester (9.50 g, 22.72 mmol). The reaction mixture was then brought to room temperature and finally heated to reflux for 3 h. The reaction mixture was quenched with aqueous NaOH solution and filtered over a short pad of celite, dried over Na2SO4 and concentrated under reduced pressure to provide the title compound (7.1 g, 94% yield). 1H NMR (400 MHz, CDCl3) δ 1.71-1.78 (m, 4H); 1.80-1.90 (m, 2H); 1.88-2.02 (m, 2H); 2.06-2.14 (m, 2H); 2.23 (s, 3H); 2.46-2.53 (m, 4H); 2.51-2.63 (m, 4H); 3.47-3.56 (m, 2H); 3.70-3.77 (m, 2H); 3.99 (t, 2H); 6.86 (d, 2H); 7.17 (d, 2H).

reactant | LiAlH4 | 68.18 mmol, 2.59 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methyl-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-pyran-4-ylmethyl}carbamic acid tert-butyl ester | 22.72 mmol, 9.50 g | C(C)(C)(C)OC(N(CC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1)C)=O | C25H40N2O4
solvent | THF | C1CCOC1 | C4H8O
product | methyl-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]-tetrahydropyran-4-ylmethyl}amine | 7.1 g, 94% yield | CNCC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C20H32N2O2
